US04547501
(d) Preparation of 3,6-dimethoxy-2-hydrazinoquinoxaline
A mixture consisting of 5 g. (0.022 mole) of 2-chloro-3,6-dimethoxyquinoxaline and 2.8 g. (0.056 mole) of hydrazine hydrate (2.7 ml.) in 75 ml. of ethanol was heated at 50° C. overnight. Upon completion of this step, a further 1.0 ml. of hydrazine hydrate was added to the mixture and the resulting mixture was heated at 50° C. for a period of six hours. At this point, another 1.0 ml. of hydrazine hydrate was added and the final reaction mixture was heated at 50° C. overnight prior to being cooled to room temperature. The spent mixture was then filtered and the recovered precipitate washed with ethanol to ultimately afford 4.1 g. (85%) of pure 3,6-dimethoxy-2-hydrazinoquinoxaline, m.p. 128°-130° C. (decomp.).

reactant | 2-chloro-3,6-dimethoxyquinoxaline | 0.022 mole | ClC1=NC2=CC=C(C=C2N=C1OC)OC | C10H9ClN2O2
reactant | hydrazine hydrate | 0.056 mole, 2.7 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3,6-dimethoxy-2-hydrazinoquinoxaline | COC=1C(=NC2=CC=C(C=C2N1)OC)NN | C10H12N4O2
